US05078907
Preparation of Potassium Monoethyl Terephthalate
This compound was prepared by the procedure described for potassium monomethyl terephthalate. Typical reagent levels were as follows: 77.0 gm (0.346 mole) of diethyl terephthalate, 19.4 gm of potassium hydroxide, 150 ml of toluene and 100 ml of ethanol.

reactant | potassium monomethyl terephthalate | C(C1=CC=C(C(=O)[O-])C=C1)(=O)OC.[K+]
reactant | diethyl terephthalate | 0.346 mole, 77.0 gm | C(C1=CC=C(C(=O)OCC)C=C1)(=O)OCC | C12H14O4
reactant | potassium hydroxide | 19.4 gm | [OH-].[K+]
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Potassium Monoethyl Terephthalate | C(C1=CC=C(C(=O)[O-])C=C1)(=O)OCC.[K+] | InChI=1S/C10H10O4.K/c1-2-14-10(13)8-5-3-7(4-6-8)9(11)12;/h3-6H,2H2,1H3,(H,11,12);/q;+1/p-1
